US09328092B2
Step (i): Preparation of t-Butyl 4-(4-formyl phenoxy)piperidine-1-carboxylate
A solution of 4-Hydroxybenzaldehyde (20.1 grams, 0.164 moles), potassium carbonate (67.9 grams, 0.492 moles) and t-butyl 4-(toluene-4-sulfonyloxy)piperidine-1-carboxylate (70 grams, 0.197 moles) in acetonitrile (1000 mL) was stirred for 18 hours at 80° C. The progress of the reaction was monitored by thin layer chromatography. After completion of reaction, the mass was cooled to room temperature and quenched on to chilled water (1000 mL). The compound was extracted with dichloromethane (3×500 mL). The resulting dichloromethane layer was washed with 10% lye solution (100 mL), water (100 mL) and brine solution (100 mL). The organic phase was dried over sodium sulfate and concentrated under reduced pressure to afford the title compound (50.3 grams).

reactant | 4-Hydroxybenzaldehyde | 0.164 moles, 20.1 grams | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | potassium carbonate | 0.492 moles, 67.9 grams | C([O-])([O-])=O.[K+].[K+]
reactant | t-butyl 4-(toluene-4-sulfonyloxy)piperidine-1-carboxylate | 0.197 moles, 70 grams | C1(=CC=C(C=C1)S(=O)(=O)OC1CCN(CC1)C(=O)OC(C)(C)C)C | C17H25NO5S
solvent | acetonitrile | 1000 mL | C(C)#N | C2H3N
product | t-Butyl 4-(4-formyl phenoxy)piperidine-1-carboxylate | 50.3 grams, Yield: 100% | C(=O)C1=CC=C(OC2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C17H23NO4
